US08309734B2
2-(2,5-Dichloro-phenoxy)-5-fluoro-nicotinic acid was prepared in analogy to Example 1, Step 1, replacing 2-chloro-nicotinic acid with 2-chloro-5-fluoro-nicotinic acid ([CAS RN 38186-88-8]) and 3-trifluoromethyl-phenol with 2,5-dichloro-phenol ([CAS RN 583-78-8]). 1H NMR (400 MHz, DMSO): δ7.38 (dd, J=8.4 Hz, J=2.4 Hz, 1H), 7.51 (d, J=2.4 Hz, 1H), 7.62 (d, J=8.4 Hz, 1H), 8.23 (dd, J=8.1 Hz, J=3.2 Hz, 1H), 8.34 (d, J=3.2 Hz, 1H), 13.65 (s, 1H). 19F NMR (376.5 MHz, DMSO): −134.6. MS (ISN): 302.0 [M−H]−.

reactant | 2-chloro-5-fluoro-nicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | 3-trifluoromethyl-phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 2,5-dichloro-phenol | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
product | 2-(2,5-Dichloro-phenoxy)-5-fluoro-nicotinic acid | ClC1=C(OC2=C(C(=O)O)C=C(C=N2)F)C=C(C=C1)Cl | C12H6Cl2FNO3
